US07250410B2
(2-amino-5-ethoxy-4-methoxyphenyl)(phenyl)methanone, XXIao.
Heat under reflux for 36 hours under an inert atmosphere a mixture of 4.5 g (17.6 mmol) of (2-amino-4,5-dimethoxyphenyl)(phenyl)methanone (XXIaa), 5 g (36 mmol) of ethyl glycinate hydrochloride, and 30 ml of anhydrous pyridine. Add four 2.5 g (18 mmol) fractions of ethyl glycinate hydrochloride, every 6 hours. Allow to equilibrate to room temperature. Evaporate to dryness. Add 200 ml of water. Extract three times with 300 ml of dichloromethane. Dry the organic fractions on Na2SO4 Purify by chromatography (AcOEt 3/hexane 1/3% triethylamine). Recrystallize in EtOH/EtO2. One obtains 2.2 g of the abovenamed product in the form of colorless crystals. Yield: 43%. M:248–250° C. 1H-NMR (CDCl3, 200 MHz): d 3.71 (s, 3H, OCH3), 3.95 (s, 3H, OCH3), 4.31 (s, 2H, CH2), 6.64 (s, 1H Ar), 6.70 (s, 1H Ar), 7.27–7.59 (m, 5H Ar), 9.40 (s, 1H exchangeable, —NH).

reactant | (2-amino-4,5-dimethoxyphenyl)(phenyl)methanone | 17.6 mmol, 4.5 g | NC1=C(C=C(C(=C1)OC)OC)C(=O)C1=CC=CC=C1 | C15H15NO3
reactant | ethyl glycinate hydrochloride | 36 mmol, 5 g | Cl.NCC(=O)OCC
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | (2-amino-5-ethoxy-4-methoxyphenyl)(phenyl)methanone | 2.2 g, Yield: 43% | NC1=C(C=C(C(=C1)OC)OCC)C(=O)C1=CC=CC=C1 | C16H17NO3
